US04845020
Isatin (25 g, 0.17 mol) and 30% formalin (30 ml, 0.3 mol) were added to a mixture of dioxane (10 ml) and water (20 ml) and the mixture was heated at 100° C. for 5 hours. The reaction mixture was cooled and crystals formed were filtered off. N-hydroxymethylisatin (28 g, yield 93%) was obtained. The melting point was 138° C. (decomposed).

reactant | Isatin | 0.17 mol, 25 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | formalin | 0.3 mol, 30 ml | C=O | CH2O
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | N-hydroxymethylisatin | 28 g, yield 93% | OCN1C(=O)C(=O)C2=CC=CC=C12 | C9H7NO3
